US05011837
N"-Cyano-N-(2-nitrophenyl)-N'-(l,2,2-trimethylpropyl)guanidine
A mixture of 2-nitrophenyl isothiocyanate (6.00 g, 33 mmol) and monosodium cyanamide (1.92 g, 30 mmol) in dioxane (15 ml) was heated at 85° C. (oil bath) overnight under argon. The reaction was then diluted with dimethylformamide (15 ml). Diisopropylethylamine (2.76 ml, 33 mmol) and 2-amino-3,3-dimethyl butane (2.36 ml, 33 mmol) were added, and the resulting mixture was treated with 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (7.68 g, 44 mmol). After stirring for 1 hour, the reaction was partitioned between ethyl acetate and 1N hydrochloric acid. The organic phase was washed with water (four times) and saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and evaporated. The crude product was flash chromatographed (4% EtOAc/ CH2Cl2) over Merck silica (650 g). The fractions containing the desired product were combined and evaporated to give the title compound as a yellow oil (4.96 g) which was crystallized to give free-flowing yellow crystals (2.31 g), m.p. 116-118° C. TLC (40% Acetone/Hexane) single spot, Rf =0.33. TLC (10% EtOAc/CH2Cl2) single spot, Rf =0.49.

reactant | 2-nitrophenyl isothiocyanate | 33 mmol, 6.00 g | [N+](=O)([O-])C1=C(C=CC=C1)N=C=S | C7H4N2O2S
reactant | monosodium cyanamide | 30 mmol, 1.92 g | N#CN.[Na]
reactant | Diisopropylethylamine | 33 mmol, 2.76 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-amino-3,3-dimethyl butane | 33 mmol, 2.36 ml | NC(C)C(C)(C)C | C6H15N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 44 mmol, 7.68 g | Cl.CN(CCCN=C=NCC)C
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | N"-Cyano-N-(2-nitrophenyl)-N'-(l,2,2-trimethylpropyl)guanidine | 4.96 g | C(#N)N=C(NC1=C(C=CC=C1)[N+](=O)[O-])NC(C(C)(C)C)C | C14H19N5O2
